US04868301
Ethyl-3-(5,7-difluorobenzothiazol-2-ylmethyl)-4-oxo-3-H-phthalazin-1-ylacetate
A mixture of ethyl-3-cyanomethyl-4-oxo-phthalazin-1-ylacetate (1.29 g), 2-amino-4,6-difluoro-thiophenol hydrochloride (0.98 g) and ethanol (20 ml) was refluxed for 6 hours. Upon cooling, the title compound precipitated out as a pale yellow solid (yield: 1.62 g; m.p. 115°-117° C.).

reactant | ethyl-3-cyanomethyl-4-oxo-phthalazin-1-ylacetate | 1.29 g | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CC#N)=O | C14H13N3O3
reactant | 2-amino-4,6-difluoro-thiophenol hydrochloride | 0.98 g | Cl.NC1=C(C(=CC(=C1)F)F)S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl-3-(5,7-difluorobenzothiazol-2-ylmethyl)-4-oxo-3-H-phthalazin-1-ylacetate | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CC=1SC2=C(N1)C=C(C=C2F)F)=O | C20H15F2N3O3S
